US08791132B2
2,3,4,5-Tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (200 mg, 1 mmol), 4-methylstyrene (239 mg, 2.3 mmol) and NaH (120 mg, 60% dispersion in oil, 3 mmol) were heated in DMSO (4 mL) at 120° C. overnight (16 h) after which methanol was added and the contents were concentrated to dryness. The resulting crude product was purified by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol: 5 mL) and/or silica gel (230-400 mesh) chromatography eluting with methanol-dichloromethane gradient to obtain 20 mg (6.2% yield) of 2,3,4,5-tetrahydro-2,8-dimethyl-5-(4-methylphenethyl)-1H-pyrido[4,3-b]indole as a trifluoroacetate salt. 1H NMR (CDCl3, TFA salt) δ (ppm): 13.3 (bs, 1H), 7.4-7.0 (m, 5H), 6.80-6.70 (d, 2H), 4.7-4.6 (d, 1H), 4.40-4.22 (m, 1H), 4.20-4.10 (m, 1H), 4.10-4.0 (d, 1H), 3.5-3.4 (t, 1H), 3.20-3.17 (t, 1H), 3.0 (t, 2H), 2.80 (s, 3H), 2.7-2.61 (m, 1H), 2.40 (s, 3H), 2.23 (s, 3H), 2.2-2.1 (m, 1H).

reactant | 2,3,4,5-Tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 1 mmol, 200 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | 4-methylstyrene | 2.3 mmol, 239 mg | CC1=CC=C(C=C)C=C1 | C9H10
reactant | NaH | 3 mmol, 120 mg | [H-].[Na+]
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | 2,3,4,5-tetrahydro-2,8-dimethyl-5-(4-methylphenethyl)-1H-pyrido[4,3-b]indole | 20 mg, 6.2% yield | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC2=CC=C(C=C2)C)CC1 | C22H26N2
